US07994185B2
2,5-Difluoro-N-{2-fluoro-3-[5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide
Following a procedure analogous to the procedure described in Example 18, Step B using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (0.150 g, 0.265 mmol) and isobutylamine (1.052 mL, 10.58 mmol) the title compound was obtained as an off-white solid (108 mg, 0.166 mmol, 62.9% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.77 (s, 1H), 8.02 (d, J=5.1 Hz, 1H), 7.44-7.64 (m, 3H), 7.31-7.44 (m, 3H), 7.27 (t, J=7.8 Hz, 1H), 5.68-6.07 (m, 1H), 3.83-3.96 (m, 2H), 3.38-3.55 (m, 2H), 3.21-3.32 (m, 1H), 2.87-3.18 (m, 2H), 1.92-2.06 (m, 2H), 1.61-1.92 (m, 3H), 0.74-0.99 (m, 6H). MS (ESI): 604.20 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.265 mmol, 0.150 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C24H18ClF3N4O3S2
reactant | isobutylamine | 10.58 mmol, 1.052 mL | C(C(C)C)N | C4H11N
product | 2,5-Difluoro-N-{2-fluoro-3-[5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide | FC1=C(C=C(C=C1)F)S(=O)(=O)NC1=C(C(=CC=C1)C=1N=C(SC1C1=NC(=NC=C1)NCC(C)C)C1CCOCC1)F | C28H28F3N5O3S2
